US06124313
a) 8-[2-(2-Chloroethoxycarbonylamino)-6-methylbenzylamino]-3-formyl-2-methylimidazo[1,2-a]pyridine
According to the procedure indicated in Example 1a, 8-(2-amino-6-methylbenzylamino)-3-formyl-2-methylimidazo[1,2-a]pyridine (2.03 g) and 2-chloroethyl chloroformate (1.01 g) in dichloromethane (120 ml) give the title compound as a brown oil, which is used directly for further reaction in Example 3b.

reactant | 8-(2-amino-6-methylbenzylamino)-3-formyl-2-methylimidazo[1,2-a]pyridine | 2.03 g | NC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C=O)C(=CC=C1)C | C17H18N4O
reactant | 2-chloroethyl chloroformate | 1.01 g | ClC(=O)OCCCl | C3H4Cl2O2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 8-[2-(2-Chloroethoxycarbonylamino)-6-methylbenzylamino]-3-formyl-2-methylimidazo[1,2-a]pyridine | ClCCOC(=O)NC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C=O)C(=CC=C1)C | C20H21ClN4O3
